US05559269
a) 6-Bromo-4-phenyl-3,4-dihydro-coumarine
A solution of p-bromophenol (138 g, 0.8 mole), cinnamic acid (148 g, 1.0 mole), acetic acid (200 g) and conc. sulfuric acid was refluxed for 2 h. Volatile material was distilled at reduced pressure. The residual syrup was cooled and triturated with cold water, giving a semi-crystalline mass. This was washed extensively with water, saturated sodium carbonate and finally with water again. The material was filtered through a sintered glass funnel, and then mixed with an equal weight of ethanol. The slurry was stirred at room temperature for 1 h and then filtered. The resulting product was washed briefly with ethanol and then diisopropyl ether. After drying, 135 g (55.7%) of the title compound was isolated as white crystals, melting at 117° C.

reactant | p-bromophenol | 0.8 mole, 138 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | cinnamic acid | 1.0 mole, 148 g | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 200 g | C(C)(=O)O | C2H4O2
product | 6-Bromo-4-phenyl-3,4-dihydro-coumarine | 135 g, 55.7% | BrC=1C=C2C(CC(OC2=CC1)=O)C1=CC=CC=C1 | C15H11BrO2
